US09079866B2
5-[3-Fluoro-2′-(piperazin-1-ylsulfonyl)biphenyl-4-yl]pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 1-((2-bromophenyl)sulfonyl)piperazine. MS (ESI): mass calcd. for C20H20FN5O2S, 413.13; m/z found, 414.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.39 (m, 1H), 8.21-8.13 (m, 2H), 8.01-7.95 (m, 1H), 7.79-7.74 (m, 1H), 7.69-7.63 (m, 1H), 7.50-7.46 (m, 1H), 7.37-7.30 (m, 2H), 3.14-3.08 (m, 4H), 3.06-2.99 (m, 4H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)piperazine | BrC1=C(C=CC=C1)S(=O)(=O)N1CCNCC1 | C10H13BrN2O2S
product | 5-[3-Fluoro-2′-(piperazin-1-ylsulfonyl)biphenyl-4-yl]pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)S(=O)(=O)N1CCNCC1 | C20H20FN5O2S
